* c:\Users\maurovlachus\OneDrive - Technical University of Cluj-Napoca\utcn\master\caa\proiect\p1_opamps\ekvParameterExtraction\4param_extraction\id_vgs_graph\ltspice\ekvParameterExtractionEdited.asc
V1 N001 0 3.3
M1 N001 N001 0 0 N_130n l=1.0u w=2.0u ad=400.0f as=400.0f pd=4.4u ps=4.4u m=1 l=1.0u w=2.0u ad=400.0f as=400.0f pd=4.4u ps=4.4u m=1
M2 0 0 N001 N001 P_130n l=1.0u w=6.0u ad=1.2p as=1.2p pd=12.4u ps=12.4u m=1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\maurovlachus\AppData\Local\LTspice\lib\cmp\standard.mos
.model N_130n nmos
*+ binflag = 0
+ mobmod = 1
+ capmod = 2
+ nqsmod = 0
+ vth0 = 0.332
+ nch = 5.6000000e+17
+ nlx = 3.5500000e-07
+ k1 = 0.3661500
+ k2 = 0.00
+ k3 = 0.00
+ k3b = 0.00
+ w0 = 0.00
+ dvt0w = 0.00
+ dvt1w = 0.00
+ dvt2w = 0.00
+ dvt0 = 8.7500000
+ dvt1 = 0.7000000
+ dvt2 = 5.0000000e-02
+ eta0 = 4.0000000e-02
+ etab = 0.00
+ dsub = 0.5200000
+ ua = -1.8000000e-09
+ ub = 2.2000000e-18
+ uc = -2.9999999e-11
+ a0 = 2.1199999
+ ags = -0.1000000
+ b0 = 0.00
+ b1 = 0.00
+ keta = 4.0000000e-02
+ voff = -7.9800000e-02
+ vsat = 1.3500000e+05
+ a1 = 0.00
+ a2 = 0.9900000
+ rdsw = 200
+ prwg = 0.00
+ prwb = 0.00
+ wr = 1.0000000
+ nfactor = 1.1000000
+ cit = 0.00
+ cdsc = 0.00
+ cdscd = 0.00
+ cdscb = 0.00
+ pclm = 0.1000000
+ pdiblc1 = 1.2000000e-02
+ pdiblc2 = 7.5000000e-03
+ pdiblcb = -1.3500000e-02
+ drout = 0.2800000
+ pscbe1 = 8.6600000e+08
+ pscbe2 = 1.0000000e-20
+ pvag = -0.2800000
+ alpha0 = 0.00
+ beta0 = 30.0000000
+ ckappa = 0.8912
+ cf = 1.113e-10
+ clc = 5.475e-08
+ cle = 6.46
+ cgsl = 1.1155e-10
+ cgdl = 1.1155e-10
+ wint = { (0.00-(0/2)) }
+ wln = 0.00
+ ww = 0.00
+ wl = 0.00
+ wwn = 1.0000000
+ wwl = 0.00
+ dwg = 0.00
+ dwb = 0.00
+ lint = { (2.5e-08-(0/2)) }
+ ll = 0.00
+ lln = 1.0000000
+ lw = 0.00
+ lwn = 0.00
+ lwl = 0.00
+ dlc = 2e-08
+ dwc = 0
+ kt1 = -0.3400000
+ kt1l = 4.0000000e-09
+ kt2 = -5.2700000e-02
+ ute = -1.2300000
+ ua1 = -8.6300000e-10
+ ub1 = 2.0000001e-18
+ uc1 = 0.00
+ at = 0.00
+ prt = 0.00
+ xti = 3.0
+ lmin = 1.3e-7
+ lmax = 1.3e-7
+ wmin = 1.3e-7
+ wmax = 1.0e-4
+ binunit = 2
+ elm = 5
+ xpart = 1
+ level = 7
+ js = 2.50e-08
+ jsw = 4.00e-13
+ n = 1.0
+ cj = 0.0015
+ cjsw = 2e-10
+ mj = 0.7175511
+ mjsw = 0.3706993
+ pb = 1.24859
+ pbsw = 0.7731149
+ rd = 0
+ rs = 0
+ xj = 4.5000000e-08
+ ngate = 5.0000000e+20
+ tox = 3.3e-09
+ cgbo = 0.0e+00
+ cgdo = 2.75e-10
+ cgso = 2.75e-10
*+ kp = { ((3.453e-11*1.3400000e-02)/3.3e-09) }
+ delta = 1.0100000e-02
+ u0 = 1.3400000e-02
.model P_130n pmos
*+ binflag = 0
+ mobmod = 1
+ capmod = 2
+ nqsmod = 0
+ vth0 = -0.3499
+ nch = 6.8500000e+18
+ nlx = 1.6500000e-07
+ k1 = 0.4087000
+ k2 = 0.00
+ k3 = 0.00
+ k3b = 0.00
+ w0 = 0.00
+ dvt0w = 0.00
+ dvt1w = 0.00
+ dvt2w = 0.00
+ dvt0 = 5.0000000
+ dvt1 = 0.2600000
+ dvt2 = -1.0000000e-02
+ eta0 = 80.0000000
+ etab = 0.00
+ dsub = 1.8500000
+ ua = -1.4000000e-09
+ ub = 1.9499999e-18
+ uc = -2.9999999e-11
+ a0 = 2.1199999
+ ags = 0.1000000
+ b0 = 0.00
+ b1 = 0.00
+ keta = 3.0300001e-02
+ voff = -9.10000000e-02
+ vsat = 1.0500000e+05
+ a1 = 0.00
+ a2 = 0.4000000
+ rdsw = 400
+ prwg = 0.00
+ prwb = 0.00
+ wr = 1.0000000
+ nfactor = 0.1250000
+ cit = 2.7999999e-03
+ cdsc = 0.00
+ cdscd = 0.00
+ cdscb = 0.00
+ pclm = 2.5000000
+ pdiblc1 = 4.8000000e-02
+ pdiblc2 = 5.0000000e-05
+ pdiblcb = 0.1432509
+ drout = 9.0000000e-02
+ pscbe1 = 1.0000000e-20
+ pscbe2 = 1.0000000e-20
+ pvag = -6.0000000e-02
+ alpha0 = 0.00
+ beta0 = 30.0000000
+ ckappa = 0.8912
+ cf = 1.113e-10
+ clc = 5.475e-08
+ cle = 6.46
+ cgsl = 1.1155e-10
+ cgdl = 1.1155e-10
+ wint = { (0.00-(0/2)) }
+ wln = 0.00
+ ww = 0.00
+ wl = 0.00
+ wwn = 0.00
+ wwl = 0.00
+ dwg = 0.00
+ dwb = 0.00
+ lint = { (2.e-08-(0/2)) }
+ ll = 0.00
+ lln = 0.00
+ lw = 0.00
+ lwn = 0.00
+ lwl = 0.00
+ dlc = 2e-08
+ dwc = 0
+ kt1 = -0.3400000
+ kt1l = 4.0000000e-09
+ kt2 = -5.2700000e-02
+ ute = -1.2300000
+ ua1 = -8.6300000e-10
+ ub1 = 2.0000001e-18
+ uc1 = 0.00
+ at = 0.00
+ prt = 0.00
+ xti = 3.0
+ lmin = 1.3e-7
+ lmax = 1.3e-7
+ wmin = 1.3e-7
+ wmax = 1.0e-4
+ binunit = 2
+ elm = 5
+ xpart = 1
+ level = 7
+ js = 2.50e-08
+ jsw = 4.00e-13
+ n = 1.0
+ cj = 0.0015
+ cjsw = 2e-10
+ mj = 0.7175511
+ mjsw = 0.3706993
+ pb = 1.24859
+ pbsw = 0.7731149
+ rd = 0
+ rs = 0
+ xj = 4.5000000e-08
+ ngate = 5.0000000e+20
+ tox = 3.3e-09
+ cgbo = 0.0e+00
+ cgdo = 2.75e-10
+ cgso = 2.75e-10
*+ kp = { ((3.453e-11*5.2000000e-03)/3.3e-09) }
+ delta = 1.0100000e-02
+ u0 = 5.2000000e-03
.dc V1 list 0.08 0.08057142857142857 0.08114285714285714 0.08171428571428571 0.08228571428571428 0.08285714285714287 0.08342857142857144 0.084 0.08457142857142858 0.08514285714285715 0.08571428571428572 0.08628571428571429 0.08685714285714285 0.08742857142857144 0.08800000000000001 0.08857142857142858 0.08914285714285715 0.08971428571428572 0.09028571428571429 0.09085714285714286 0.09142857142857143 0.092 0.09257142857142858 0.09314285714285715 0.09371428571428572 0.09428571428571429 0.09485714285714286 0.09542857142857143 0.096 0.09657142857142859 0.09714285714285714 0.09771428571428573 0.0982857142857143 0.09885714285714287 0.09942857142857144 0.10087636980566667 0.1020116166134254 0.1031452708766476 0.10427734613766462 0.10540785583174184 0.10653681328849346 0.10766423173327502 0.10879012428855572 0.10991450397527006 0.11103738371414928 0.11215877632703367 0.11327869453816469 0.11439715097545927 0.11551415817176436 0.11662972856609397 0.11774387450484822 0.1188566082430143 0.11996794194535088 0.12107788768755526 0.12218645745741336 0.12329366315593446 0.12439951659846893 0.1255040295158108 0.12660721355528456 0.12770908028181696 0.12880964117899377 0.12990890765010193 0.13100689101915766 0.13210360253191983 0.13319905335688972 0.13429325458629782 0.1353862172370758 0.13647795225181716 0.13756847049972315 0.13865778277753754 0.13974589981046798 0.14083283225309545 0.14191859069027185 0.1430031856380053 0.14408662754433438 0.14516892679019094 0.14625009369025077 0.14733013849377494 0.14840907138543863 0.14948690248615046 0.15056364185386115 0.15163929948436117 0.1527138853120697 0.1537874092108122 0.15485988099458942 0.15593131041833616 0.15700170717867062 0.15807108091463515 0.15913944120842688 0.16020679758612053 0.16127315951838161 0.16233853642117121 0.1634029376564426 0.16446637253282892 0.16552885030632356 0.1665903801809512 0.16765097130943227 0.1687106327938388 0.1697693736862426 0.1708272029893564 0.1718841296571672 0.17294016259556244 0.17399531066294927 0.175049582670866 0.1761029873845879 0.17715553352372476 0.17820722976281317 0.17925808473190114 0.18030810701712655 0.1813573051612899 0.1824056876644197 0.18345326298433273 0.1845000395371877 0.1855460256980328 0.18659122980134835 0.1876356601415824 0.1886793249736819 0.18972223251361758 0.19076439093890346 0.19180580838911154 0.19284649296638018 0.1938864527359186 0.1949256957265052 0.19596422993098134 0.1970020633067403 0.19803920377621098 0.1990756592273374 0.20011143751405297 0.20114654645675062 0.20218099384274807 0.20321478742674884 0.20424793493129892 0.20528044404723883 0.20631232243415212 0.20734357772080902 0.20837421750560625 0.20940424935700325 0.21043368081395358 0.2114625193863336 0.21249077255536625 0.2135184477740418 0.2145455524675348 0.215572094033617 0.21659807984306753 0.21762351724007895 0.21864841354265993 0.21967277604303506 0.22069661200804072 0.22171992867951834 0.22274273327470406 0.2237650329866152 0.2247868349844343 0.22580814641388927 0.2268289743976314 0.22784932603560992 0.22886920840544395 0.2298886285627918 0.23090759354171697 0.23192611035505234 0.23294418599476097 0.23396182743229466 0.23497904161895009 0.23599583548622188 0.23701221594615424 0.23802818989168914 0.23904376419701295 0.24005894571790048 0.24107374129205655 0.24208815773945597 0.2431022018626806 0.24411588044725513 0.24512920026198015 0.24614216805926328 0.24715479057544895 0.24816707453114517 0.24917902663154964 0.25019065356677306 0.25120196201216083 0.2522129586286136 0.2532236500629052 0.25423404294799956 0.25524414390336586 0.2562539595352915 0.2572634964371946 0.2582727611899339 0.259281760362118 0.26029050051041247 0.2612989881798462 0.2623072299041159 0.26331523220588937 0.2643230015971078 0.26533054457928645 0.26633786764381395 0.26734497727225137 0.2683518799366286 0.2693585820997414 0.2703650902154457 0.27137141072895204 0.27237755007711867 0.27338351468874317 0.2743893109848541 0.2753949453790007 0.27640042427754286 0.2774057540799392 0.27841094117903475 0.2794159919613484 0.28042091280735854 0.2814257100917891 0.2824303901838943 0.28343495944774266 0.28443942424250096 0.2854437909227172 0.2864480658386032 0.28745225533631685 0.28845636575824324 0.28946040344327634 0.2904643747270994 0.2914682859424657 0.2924721434194784 0.29347595348587024 0.2944797224672834 0.29548345668754805 0.29648716246896234 0.2974908461325705 0.298494513998442 0.29949817238595006 0.30050182761405 0.30150548600155797 0.3025091538674295 0.30351283753103764 0.30451654331245187 0.30552027753271666 0.30652404651412973 0.30752785658052156 0.3085317140575342 0.3095356252729005 0.3105395965567237 0.31154363424175674 0.3125477446636831 0.3135519341613967 0.3145562090772827 0.3155605757574991 0.3165650405522573 0.31756960981610566 0.3185742899082108 0.3195790871926414 0.3205840080386516 0.3215890588209652 0.32259424592006075 0.32359957572245707 0.3246050546209992 0.325610689015146 0.3266164853112568 0.3276224499228813 0.3286285892710479 0.32963490978455423 0.3306414179002586 0.33164812006337135 0.3326550227277486 0.33366213235618597 0.33466945542071347 0.33567699840289217 0.3366847677941106 0.33769277009588405 0.3387010118201537 0.3397094994895874 0.340718239637882 0.34172723881006606 0.3427365035628054 0.3437460404647084 0.34475585609663406 0.3457659570520004 0.3467763499370948 0.3477870413713864 0.3487980379878391 0.349809346433227 0.3508209733684503 0.3518329254688548 0.35284520942455105 0.3538578319407366 0.3548707997380199 0.35588411955274485 0.35689779813731937 0.357911842260544 0.35892625870794337 0.35994105428209955 0.360956235802987 0.36197181010831087 0.36298778405384574 0.36400416451377804 0.36502095838105 0.3660381725677053 0.367055814005239 0.36807388964494764 0.36909240645828295 0.37011137143720824 0.37113079159455603 0.37215067396439006 0.37317102560236853 0.3741918535861106 0.37521316501556573 0.37623496701338477 0.3772572667252959 0.3782800713204816 0.3793033879919592 0.38032722395696494 0.38135158645734 0.38237648275992103 0.3834019201569324 0.38442790596638293 0.38545444753246527 0.38648155222595815 0.38750922744463373 0.38853748061366633 0.38956631918604634 0.3905957506429968 0.3916257824943937 0.39265642227919095 0.39368767756584777 0.3947195559527611 0.39575206506870114 0.39678521257325117 0.3978190061572519 0.3988534535432493 0.39988856248594695 0.4009243407726626 0.401960796223789 0.4029979366932597 0.4040357700690186 0.4050743042734947 0.4061135472640814 0.4071535070336198 0.40819419161088843 0.40923560906109646 0.41027776748638245 0.4113206750263181 0.4123643398584176 0.41340877019865163 0.4144539743019671 0.41549996046281235 0.41654673701566725 0.4175943123355803 0.4186426948387101 0.4196918929828734 0.4207419152680989 0.4217927702371868 0.4228444664762752 0.42389701261541207 0.4249504173291339 0.42600468933705077 0.42705983740443754 0.42811587034283277 0.4291727970106436 0.4302306263137573 0.4312893672061612 0.4323490286905677 0.4334096198190488 0.4344711496936764 0.435533627467171 0.43659706234355744 0.43766146357882874 0.43872684048161836 0.4397932024138794 0.44086055879157304 0.4419289190853649 0.44299829282132935 0.4440686895816638 0.4451401190054105 0.44621259078918774 0.44728611468793034 0.4483607005156388 0.4494363581461388 0.4505130975138495 0.4515909286145613 0.45266986150622507 0.4537499063097492 0.45483107320980903 0.4559133724556655 0.45699681436199463 0.4580814093097282 0.4591671677469045 0.460254100189532 0.4613422172224624 0.4624315295002768 0.46352204774818284 0.4646137827629242 0.46570674541370216 0.4668009466431102 0.4678963974680801 0.46899310898084234 0.47009109234989804 0.47119035882100624 0.472290919718183 0.47339278644471533 0.4744959704841892 0.47560048340153105 0.4767063368440655 0.47781354254258657 0.47892211231244464 0.4800320580546491 0.48114339175698567 0.48225612549515173 0.48337027143390593 0.4844858418282357 0.4856028490245407 0.4867213054618353 0.48784122367296634 0.48896261628585064 0.49008549602472995 0.49120987571144425 0.492335768266725 0.4934631867115065 0.4945921441682581 0.49572265386233544 0.4968547291233524 0.4979883833865746 0.4991236301943333 0.5002604831974611 0.50139895615675 0.5025390629444315 0.5036808175456803 0.5048242340601404 0.5059693267034763 0.507116109808947 0.5082645978290061 0.5094148053369266 0.5105667470284512 0.5117204377234695 0.5128758923677217 0.5140331260345289 0.5151921539265532 0.5163529913775841 0.5175156538543554 0.5186801569583912 0.5198465164278814 0.5210147481395899 0.5221848681107922 0.5233568925012466 0.5245308376151971 0.5257067199034102 0.5268845559652466 0.5280643625507664 0.5292461565628701 0.5304299550594775 0.5316157752557411 0.5328036345263 0.53399355040757 0.5351855406000754 0.5363796229708199 0.5375758155556978 0.5387741365619498 0.5399746043706599 0.5411772375392963 0.5423820548042974 0.5435890750837038 0.5447983174798378 0.5460098012820286 0.5472235459693887 0.5484395712136394 0.5496578968819861 0.5508785430400488 0.5521015299548429 0.5533268780978167 0.5545546081479429 0.5557847409948692 0.5570172977421257 0.5582522997103928 0.5594897684408292 0.5607297256984632 0.5619721934756483 0.5632171939955821 0.564464749715895 0.5657148833323042 0.5669676177823402 0.5682229762491432 0.5694809821653348 0.5707416592169618 0.5720050313475203 0.573271122762055 0.5745399579313423 0.5758115615961532 0.5770859587716024 0.5783631747515834 0.579643235113291 0.5809261657218369 0.5822119927349566 0.5835007426078116 0.58479244209789 0.5860871182700064 0.5873847985014049 0.5886855104869666 0.5899892822445258 0.5912961421202952 0.5926061187944054 0.5939192412865603 0.5952355389618113 0.596555041536454 0.59787777908405 0.5992037820415766 0.6005330812157099 0.6018657077892412 0.6032016933276338 0.6045410697857221 0.6058838695145549 0.6072301252683927 0.6085798702118553 0.6099331379272304 0.6112899624219426 0.6126503781361906 0.6140144199507569 0.6153821231949903 0.6167535236549728 0.6181286575818711 0.6195075617004779 0.6208902732179524 0.6222768298327606 0.6236672697438232 0.6250616316598789 0.6264599548090638 0.6278622789487204 0.6292686443754355 0.6306790919353193 0.6320936630345289 0.6335123996500444 0.6349353443407075 0.6363625402585253 0.6377940311602519 0.6392298614192525 0.640670076037661 0.6421147206588388 0.643563841580143 0.6450174857660154 0.646475700861399 0.6479385352054967 0.6494060378458776 0.650878258552944 0.6523552478347721 0.6538370569523335 0.6553237379351151 0.656815343597144 0.6583119275534357 0.6598135442368749 0.661320248915545 0.6628320977105211 0.66434914761414 0.6658714565087621 0.6673990831860455 0.6689320873667426 0.670470529721045 0.6720144718894852 0.6735639765044217 0.6751191072121243 0.6766799286954772 0.6782465066973276 0.6798189080444946 0.681397200672466 0.6829814536508056 0.6845717372092943 0.6861681227648336 0.6877706829491368 0.6893794916372344 0.6909946239768269 0.6926161564185093 0.6942441667469079 0.6958787341127526 0.6975199390659255 0.6991678635895202 0.7008225911349488 0.7024842066581363 0.7041527966568422 0.7058284492091539 0.7075112540131948 0.7092013024280941 0.7108986875162671 0.7126035040870577 0.7143158487417949 0.7160358199203194 0.7177635179490385 0.7194990450905725 0.7212425055950524 0.7229940057531383 0.7247536539508288 0.7265215607261327 0.7282978388276843 0.7300826032753758 0.7318759714230995 0.7336780630236828 0.7354890002961125 0.7373089079951438 0.7391379134833996 0.740976146806066 0.7428237407682979 0.7446808310154577 0.7465475561163049 0.7484240576492789 0.7503104802920064 0.7522069719141818 0.7541136836739808 0.75603077011816 0.7579583892860244 0.7598967028174372 0.7618458760650634 0.763806078211057 0.7657774823883928 0.767760265807077 0.7697546098854733 0.7717607003869928 0.7737787275624184 0.7758088862981457 0.7778513762706339 0.779906402107392 0.7819741735548282 0.7840549056533244 0.7861488189199102 0.7882561395389398 0.7903770995611972 0.7925119371118823 0.7946608966079627 0.7968242289854006 0.7990021919368031 0.8011950501600773 0.8034030756187083 0.805626547814327 0.8078657540722654 0.810120989840861 0.8123925590053112 0.8146807742169391 0.8169859572387954 0.819308439308581 0.8216485615199454 0.8240066752232988 0.8263831424473502 0.8287783363426802 0.8311926416487487 0.8336264551858503 0.8360801863736342 0.8385542577779475 0.8410491056878757 0.8435651807250237 0.846102948487226 0.8486628902290614 0.8512455035817383 0.8538513033151296 0.8564808221449638 0.8591346115884415 0.8618132428718188 0.8645173078938084 0.867247420248995 0.8700042163158186 0.8727883564141061 0.8756005260375805 0.87844143716727 0.8813118296723197 0.8842124728052922 0.8871441667997617 0.890107744578744 0.8931040735833666 0.8961340577321271 0.899198639522135 0.9022988022849368 0.905435572610821 0.9086100229570186 0.9118232744568548 0.9150764999488206 0.9183709272466427 0.9217078426738323 0.9250885948889347 0.9285145990307642 0.9319873412164501 0.9355083834291138 0.9390793688365695 0.9427020275876974 0.946378183139138 0.9501097591718841 0.9538987871653262 0.9577474147055354 0.9616579146152853 0.9656326950057372 0.9696743103642582 0.9737854738098148 0.9779690706673194 0.9822281735358 0.9865660590529906 0.990986226591847 0.9954924191636751 1.0 1.0038216560509554 1.0076433121019108 1.0114649681528662 1.0152866242038217 1.019108280254777 1.0229299363057325 1.026751592356688 1.0305732484076433 1.0343949044585987 1.0382165605095541 1.0420382165605095 1.045859872611465 1.0496815286624204 1.0535031847133758 1.0573248407643312 1.0611464968152866 1.064968152866242 1.0687898089171974 1.0726114649681529 1.0764331210191083 1.0802547770700637 1.084076433121019 1.0878980891719745 1.09171974522293 1.0955414012738853 1.0993630573248407 1.1031847133757962 1.1070063694267516 1.110828025477707 1.1146496815286624 1.1184713375796178 1.1222929936305732 1.1261146496815286 1.129936305732484 1.1337579617834395 1.1375796178343949 1.1414012738853503 1.1452229299363057 1.1490445859872611 1.1528662420382165 1.156687898089172 1.1605095541401274 1.1643312101910828 1.1681528662420382 1.1719745222929936 1.175796178343949 1.1796178343949044 1.1834394904458598 1.1872611464968152 1.1910828025477707 1.194904458598726 1.1987261146496815 1.202547770700637 1.2063694267515923 1.2101910828025477 1.2140127388535031 1.2178343949044586 1.221656050955414 1.2254777070063694 1.2292993630573248 1.2331210191082802 1.2369426751592356 1.240764331210191 1.2445859872611464 1.2484076433121019 1.2522292993630573 1.256050955414013 1.259872611464968 1.2636942675159237 1.267515923566879 1.2713375796178346 1.2751592356687897 1.2789808917197454 1.2828025477707006 1.2866242038216562 1.2904458598726114 1.294267515923567 1.2980891719745222 1.3019108280254779 1.305732484076433 1.3095541401273887 1.3133757961783439 1.3171974522292995 1.3210191082802547 1.3248407643312103 1.3286624203821655 1.3324840764331212 1.3363057324840764 1.340127388535032 1.3439490445859872 1.3477707006369428 1.351592356687898 1.3554140127388536 1.3592356687898088 1.3630573248407645 1.3668789808917197 1.3707006369426753 1.3745222929936305 1.3783439490445861 1.3821656050955413 1.385987261146497 1.3898089171974521 1.3936305732484078 1.397452229299363 1.4012738853503186 1.4050955414012738 1.4089171974522294 1.4127388535031848 1.4165605095541403 1.4203821656050957 1.424203821656051 1.4280254777070065 1.431847133757962 1.4356687898089173 1.4394904458598727 1.4433121019108281 1.4471337579617836 1.450955414012739 1.4547770700636944 1.4585987261146498 1.4624203821656052 1.4662420382165606 1.470063694267516 1.4738853503184715 1.4777070063694269 1.4815286624203823 1.4853503184713377 1.489171974522293 1.4929936305732485 1.496815286624204 1.5006369426751593 1.5044585987261148 1.5082802547770702 1.5121019108280256 1.515923566878981 1.5197452229299364 1.5235668789808918 1.5273885350318472 1.5312101910828027 1.535031847133758 1.5388535031847135 1.542675159235669 1.5464968152866243 1.5503184713375797 1.5541401273885351 1.5579617834394905 1.561783439490446 1.5656050955414014 1.5694267515923568 1.5732484076433122 1.5770700636942676 1.580891719745223 1.5847133757961784 1.5885350318471338 1.5923566878980893 1.5961783439490447 1.6 1.6038216560509555 1.607643312101911 1.6114649681528663 1.6152866242038217 1.6191082802547772 1.6229299363057326 1.626751592356688 1.6305732484076434 1.6343949044585988 1.6382165605095542 1.6420382165605096 1.645859872611465 1.6496815286624205 1.6535031847133759 1.6573248407643313 1.6611464968152867 1.6649681528662421 1.6687898089171975 1.672611464968153 1.6764331210191084 1.6802547770700638 1.6840764331210192 1.6878980891719746 1.69171974522293 1.6955414012738854 1.6993630573248408 1.7031847133757962 1.7070063694267517 1.710828025477707 1.7146496815286625 1.718471337579618 1.7222929936305733 1.7261146496815287 1.7299363057324841 1.7337579617834395 1.737579617834395 1.7414012738853504 1.7452229299363058 1.7490445859872612 1.7528662420382166 1.756687898089172 1.7605095541401274 1.7643312101910829 1.7681528662420383 1.7719745222929937 1.775796178343949 1.7796178343949045 1.78343949044586 1.7872611464968153 1.7910828025477707 1.7949044585987262 1.7987261146496816 1.802547770700637 1.8063694267515924 1.8101910828025478 1.8140127388535032 1.8178343949044589 1.821656050955414 1.8254777070063697 1.8292993630573249 1.8331210191082805 1.8369426751592357 1.8407643312101913 1.8445859872611465 1.8484076433121022 1.8522292993630574 1.856050955414013 1.8598726114649682 1.8636942675159238 1.867515923566879 1.8713375796178346 1.8751592356687898 1.8789808917197455 1.8828025477707007 1.8866242038216563 1.8904458598726115 1.8942675159235671 1.8980891719745223 1.901910828025478 1.9057324840764331 1.9095541401273888 1.913375796178344 1.9171974522292996 1.9210191082802548 1.9248407643312104 1.9286624203821656 1.9324840764331213 1.9363057324840764 1.940127388535032 1.9439490445859873 1.947770700636943 1.951592356687898 1.9554140127388537 1.959235668789809 1.9630573248407646 1.9668789808917198 1.9707006369426754 1.9745222929936306 1.9783439490445862 1.9821656050955414 1.985987261146497 1.9898089171974522 1.9936305732484079 1.997452229299363 2.0012738853503187 2.005095541401274 2.0089171974522295 2.012738853503185 2.0165605095541403 2.0203821656050955 2.024203821656051 2.028025477707007 2.031847133757962 2.035668789808917 2.039490445859873 2.0433121019108285 2.0471337579617837 2.050955414012739 2.0547770700636945 2.05859872611465 2.0624203821656053 2.0662420382165605 2.070063694267516 2.0738853503184718 2.077707006369427 2.081528662420382 2.085350318471338 2.0891719745222934 2.0929936305732486 2.096815286624204 2.1006369426751594 2.104458598726115 2.1082802547770703 2.1121019108280255 2.115923566878981 2.1197452229299367 2.123566878980892 2.127388535031847 2.1312101910828027 2.1350318471337584 2.1388535031847136 2.1426751592356688 2.1464968152866244 2.15031847133758 2.154140127388535 2.1579617834394904 2.161783439490446 2.1656050955414017 2.169426751592357 2.173248407643312 2.1770700636942677 2.1808917197452233 2.1847133757961785 2.1885350318471337 2.1923566878980894 2.196178343949045 2.2
.backanno
.end
